US05610303
N-(7-hydroxy-5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[3-(1-benzylpiperidin-4-yl)propanoyl]aniline (Compound II-167 in Table 1)
To 15 ml of ethanol were added 0.60 g of 4-[3-(1-benzylpiperidin-4-yl)propanoyl]aniline and 0.51 g of 7-acetoxy-4-chloro-5,6-dihydro-7H-cyclopenta[d]pyrimidine, then 3 ml of an ethanol solution of hydrochloric acid (containing 0.19 g of hydrochloric acid) was added to the mixture and the mixture was reacted under reflux for 30 minutes. After cooling, a 28% sodium methylate-methanol solution was added to the reaction mixture to make it alkaline, and the mixture was condensed under reduced pressure. The obtained residue was applied to silica gel column chromatography to obtain 0.49 g of the title compound as white crystal.

reactant | 4-[3-(1-benzylpiperidin-4-yl)propanoyl]aniline | 0.60 g | C(C1=CC=CC=C1)N1CCC(CC1)CCC(=O)C1=CC=C(N)C=C1 | C21H26N2O
reactant | 7-acetoxy-4-chloro-5,6-dihydro-7H-cyclopenta[d]pyrimidine | 0.51 g | C(C)(=O)OC1CCC2=C1N=CN=C2Cl | C9H9ClN2O2
reactant | hydrochloric acid | 0.19 g | Cl | ClH
reactant | sodium methylate methanol | C[O-].[Na+].CO
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-(7-hydroxy-5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[3-(1-benzylpiperidin-4-yl)propanoyl]aniline | 0.49 g | OC1CCC2=C1N=CN=C2NC2=CC=C(C=C2)C(CCC2CCN(CC2)CC2=CC=CC=C2)=O | C28H32N4O2
